US08314091B2
C: N-(3,3-Difluorocyclobutyl)-3-(piperazin-1-ylmethyl)benzamide
tert-Butyl 4-(3-(3,3-difluorocyclobutylcarbamoyl)benzyl)piperazine-1-carboxylate (12.65 mmol, 5.179 g) was stirred at room temperature in dichloromethane (10 mL)/trifluoroacetic acid (10 mL) for 1 hour with sonication. The solvent was removed under vacuum and the resulting residue was purified by strong cation exchange column chromatography to afford the title compound (3.19 g). MS (ESI) m/z 310.4 [M+H]+

reactant | tert-Butyl 4-(3-(3,3-difluorocyclobutylcarbamoyl)benzyl)piperazine-1-carboxylate | 12.65 mmol, 5.179 g | FC1(CC(C1)NC(=O)C=1C=C(CN2CCN(CC2)C(=O)OC(C)(C)C)C=CC1)F | C21H29F2N3O3
reactant | trifluoroacetic acid | 10 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | N-(3,3-Difluorocyclobutyl)-3-(piperazin-1-ylmethyl)benzamide | 3.19 g | FC1(CC(C1)NC(C1=CC(=CC=C1)CN1CCNCC1)=O)F | C16H21F2N3O
